US06166015
3-(RS)-aminomethyl-1-tert-butoxycarbonylpyrrolidine (6.0 g, 30 mmol) in methylene chloride (15 mL) was added dropwise to a cold (0° C.) solution of chloroacetylchloride (2.4 mL, 30 mmol) and diisopropylethylamine (5.5 mL, 32 mmol) in methylene chloride under N2. After 1 h, an additional 0.5 equiv. of chloroacetyl chloride and diisopropylamine were added. After being left at 0° C. overnight, the reaction mixture was diluted with ethyl acetate and washed briefly with water and brine, then dried over sodium sulfate and concentrated to give N-(1-tert-butoxycarbonylpyrrolidin-3-(RS)-ylmethyl)-2-chloroacetamide as a dark brown oil which was used without further purification.

reactant | 3-(RS)-aminomethyl-1-tert-butoxycarbonylpyrrolidine | 30 mmol, 6.0 g | NCC1CN(CC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | chloroacetylchloride | 30 mmol, 2.4 mL | ClCC(=O)Cl | C2H2Cl2O
reactant | diisopropylethylamine | 32 mmol, 5.5 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | chloroacetyl chloride | 0.5 equiv. | ClCC(=O)Cl | C2H2Cl2O
reactant | diisopropylamine | C(C)(C)NC(C)C | C6H15N
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(1-tert-butoxycarbonylpyrrolidin-3-(RS)-ylmethyl)-2-chloroacetamide | C(C)(C)(C)OC(=O)N1CC(CC1)CNC(CCl)=O | C12H21ClN2O3
